US09034900B2
N-[3-(5-cyclopropyl-1-methyl-6-oxopyridin-3-yl)-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide
The title compound was prepared in a manner similar to Example 122, substituting 3-cyclopropyl-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one for 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one and N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide for N-[3-Bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.46-0.54 (m, 2H) 0.77-0.88 (m, 2H) 1.93-2.07 (m, 1H) 2.98-3.05 (m, 3H) 3.44-3.51 (m, 3H) 6.89-6.95 (m, 1H) 7.00-7.12 (m, 3H) 7.13-7.19 (m, 1H) 7.21-7.25 (m, 1H) 7.39-7.48 (m, 1H) 7.71 (s, 1H) 9.56-9.82 (bs, 1H). LCMS (M+H)+=447.

reactant | 3-Fluoro-1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | FC=1C(N(C=C(C1)B1OC(C(O1)(C)C)(C)C)C)=O | C12H17BFNO3
reactant | N-[3-bromo-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide | BrC=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)C | C13H10BrF2NO3S
reactant | N-[3-Bromo-4-(2,4-difluorophenoxy)phenyl]ethanesulfonamide | BrC=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)CC | C14H12BrF2NO3S
product | N-[3-(5-cyclopropyl-1-methyl-6-oxopyridin-3-yl)-4-(2,4-difluorophenoxy)phenyl]methanesulfonamide | C1(CC1)C1=CC(=CN(C1=O)C)C=1C=C(C=CC1OC1=C(C=C(C=C1)F)F)NS(=O)(=O)C | C22H20F2N2O4S
